US05440044
2-(3-Carboxybenzoyl)-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine
Under the conditions of example 2, 20 mg of 2-(3-methoxycarbonylbezoyl)-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine in 1 ml of methanol is saponified with 2 ml of 1 n sodium hydroxide solution and worked up. 15 mg of the title compound is obtained as colorless oil.

reactant | 2-(3-methoxycarbonylbezoyl)-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 20 mg | COC(=O)C=1C=C(C(=O)C2=NC(=CC=C2)\C=C\C(CCCCCCCC)O)C=CC1 | C25H31NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 2-(3-Carboxybenzoyl)-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 15 mg | C(=O)(O)C=1C=C(C(=O)C2=NC(=CC=C2)\C=C\C(CCCCCCCC)O)C=CC1 | C24H29NO4
